.SUBCKT sg13g2_o21ai_2 Y A1 A2 B1 VDD VSS
*.PININFO A1:I A2:I B1:I Y:O VDD:B VSS:B
MP0 net14 A1 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP1 Y A2 net14 VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MP2 Y B1 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
MN0 net1 A2 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN2 net1 A1 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MN1 Y B1 net1 VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
.ENDS
